US05872118
A mixture of ethyl 3-(2-fluorophenyl)propionate (25.54 g, 0.130 mol) and a 50% aqueous solution of sodium hydroxide (30 mL) in water (130 mL) was refluxed for 2 h. After cooling the mixture was washed with diethyl ether (2×100 mL). The aqueous phase was chilled in an ice bath, and the pH was adjusted to 3 with hydrochloric acid . The white precipitate which formed was collected by filtration, washed repeatedly with water, and dried in a vacuum at 60° C. for 18 h to give 18.66 g (85%) of 3-(2-fluorophenyl)propionic acid as a white solid; m.p., 72°-74° C. This material was used without further purification.

reactant | ethyl 3-(2-fluorophenyl)propionate | 0.130 mol, 25.54 g | FC1=C(C=CC=C1)CCC(=O)OCC | C11H13FO2
reactant | sodium hydroxide | 30 mL | [OH-].[Na+]
solvent | water | 130 mL | O | H2O
product | 3-(2-fluorophenyl)propionic acid | 18.66 g, 85% | FC1=C(C=CC=C1)CCC(=O)O | C9H9FO2
